US07358360B2
A solution of sodium hydroxide (7.4 g, 1 eq.) in a mixture of water/ethanol (50%, v/v) (150 ml) was added drop-wise to a suspension of risedronic acid (50 g) and 5 g of EDTA (ca. 10% on a dry per-weight basis) in a mixture of water/ethanol (50%, v/v) (850 ml) at reflux temperature. The reaction mixture was stirred at reflux temperature until the pH was stable at about 4.2-4.7. The reaction mixture was cooled to a temperature of about 50° C. The precipitate was then filtered, washed twice with 50 ml mixture of water/ethanol (50%, v/v) and then with ethanol (1×50 ml) and dried over night at 50° C. to give 48.5 g (85%) of sodium risedronate white crystal substance of form B (water content by thermogravimetric analysis was 5.5%-7.5%). Less than 50 ppm of iron was found in the product by AES.

reactant | sodium hydroxide | 7.4 g, 1 eq. | [OH-].[Na+]
reactant | risedronic acid | 50 g | C1=CC(=CN=C1)CC(O)(P(=O)(O)O)P(=O)(O)O | C7H11NO7P2
reactant | EDTA | 5 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | water ethanol | 150 ml | O.C(C)O
product | sodium risedronate | 48.5 g, 85% | C1=CC(=CN=C1)CC(O)(P(=O)(O)O)P(=O)(O)[O-].[Na+] | InChI=1S/C7H11NO7P2.Na/c9-7(16(10,11)12,17(13,14)15)4-6-2-1-3-8-5-6;/h1-3,5,9H,4H2,(H2,10,11,12)(H2,13,14,15);/q;+1/p-1
